US06743852B2
Benzoxazine 6.
A 500 mL flask was charged with 4-methoxyphenol (12.4 g, 100 mmol), 3-amino-1-propanol (7.5 g, 100 mmol), and paraformaldehyde (6.4 g, 213 mmol). Toluene (200 g) was added to the flask and the mixture was heated to reflux for one hour, during which time 3.8 mL of water was collected in a Dean-Stark trap. The solution was cooled to 0° C., and triethylamine (23 g, 227 mmol) was added to the flask. This was followed by the drop-wise addition of acryloyl chloride (11 g, 125 mmol). The solution was allowed to stir overnight at room temperature. The product was worked up in a similar fashion as described in previous examples. About 20 g (72% yield) of a low viscosity, orange liquid was recovered.

reactant | 4-methoxyphenol | 100 mmol, 12.4 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | 3-amino-1-propanol | 100 mmol, 7.5 g | NCCCO | C3H9NO
reactant | paraformaldehyde | 213 mmol, 6.4 g | C=O | CH2O
reactant | triethylamine | 227 mmol, 23 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 125 mmol, 11 g | C(C=C)(=O)Cl | C3H3ClO
solvent | water | 3.8 mL | O | H2O
solvent | Toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | Benzoxazine | 72% yield | O1NC=CC2=C1C=CC=C2 | C8H7NO
